US06653334B1
Synthesis of tert-Butyl 2-[4-(Cyanomethyl)phenoxy]-2-methylpropionate
4-Hydroxyphenylacetonitrile (13.3 g, 100 mmol) and potassium carbonate (20.73 g, 150 mmol) was added to dimethylformamide (75 mL). Subsequently, tert-butyl 2-bromoisobutyrate (50.41 mL, 250 mmol) was added thereto, and the mixture was stirred for 24 hours at 80° C. The temperature of the reaction mixture was returned to room temperature, and ethyl acetate was added thereto. Washing was performed sequentially with water and saturated brine, followed by drying over sodium sulfate. The resultant mixture was subjected to concentration under reduced pressure and purification by silica gel column chromatography (n-hexane/ethyl acetate=7/1), whereby the target compound was obtained (18.62 g, 67.62 mmol, 67.6%).

reactant | 4-Hydroxyphenylacetonitrile | 100 mmol, 13.3 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | potassium carbonate | 150 mmol, 20.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
reactant | tert-butyl 2-bromoisobutyrate | 250 mmol, 50.41 mL | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-[4-(Cyanomethyl)phenoxy]-2-methylpropionate | C(#N)CC1=CC=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1 | C16H21NO3
